US06121308
2-[(4-Amidinophenyl)-oxymethyl]-4-methyl-7-[N-(hydroxycarbonylmethyl)-benzoylamino]-quinoline
Prepared analogously to Example 3 from 2-[(4-amidinophenyl)-oxymethyl]-4-methyl-7-[N-(ethoxycarbonylmethyl)-benzoylamino]-quinoline and sodium hydroxide solution.

reactant | 2-[(4-amidinophenyl)-oxymethyl]-4-methyl-7-[N-(ethoxycarbonylmethyl)-benzoylamino]-quinoline | C(N)(=N)C1=CC=C(C=C1)OCC1=NC2=CC(=CC=C2C(=C1)C)N(CC(=O)OCC)C(C1=CC=CC=C1)=O | C29H28N4O4
reactant | sodium hydroxide | [OH-].[Na+]
product | 2-[(4-Amidinophenyl)-oxymethyl]-4-methyl-7-[N-(hydroxycarbonylmethyl)-benzoylamino]-quinoline | C(N)(=N)C1=CC=C(C=C1)OCC1=NC2=CC(=CC=C2C(=C1)C)N(CC(=O)O)C(C1=CC=CC=C1)=O | C27H24N4O4
